US07253165B2
Synthesis of [3-(4-benzo[b]thiophen-3-yl-phenoxy)-propyl]-(2-fluoro-benzyl)-amine (Scheme III, Compound 1b)
The title compound is prepared from 3-[4-(3-bromo-propoxy)-phenyl]-benzo[b]thiophene, 2-fluorobenzylamine, potassium carbonate and acetonitrile essentially as described above in Example 118. Purity by LC/MS=100%, [M+H]+=392.

reactant | 3-[4-(3-bromo-propoxy)-phenyl]-benzo[b]thiophene | BrCCCOC1=CC=C(C=C1)C=1C2=C(SC1)C=CC=C2 | C17H15BrOS
reactant | 2-fluorobenzylamine | FC1=C(CN)C=CC=C1 | C7H8FN
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
product | [3-(4-benzo[b]thiophen-3-yl-phenoxy)-propyl]-(2-fluoro-benzyl)-amine | S1C2=C(C(=C1)C1=CC=C(OCCCNCC3=C(C=CC=C3)F)C=C1)C=CC=C2 | C24H22FNOS
